US07678820B2
Under ice-cooling, to DMF (30 ml) was slowly added dropwise POCl3 (6.68 g, 4.06 ml), followed by reaction at room temperature for 2 hours, and then a solution of 1H-benzimidazole-6-carboxamide (2.38 g) in DMF (47.6 ml) was added thereto, followed by stirring at room temperature for 2 hours. To the solution was added a 1M aqueous NaOH solution (pH 6 to 7), followed by stirring at room temperature for 0.5 hour. The solution was extracted with EtOAc, and the organic layer was combined, washed with saturated brine, dried over anhydrous MgSO4, and then filtered, and the filtrate was concentrated. The residue was purified by silica gel chromatography, and powdered/washed with IPE to obtain 1H-benzimidazole-6-carbonitrile (0.58 g) as a pale red crystal.

reactant | POCl3 | 4.06 ml, 6.68 g | O=P(Cl)(Cl)Cl | Cl3OP
reactant | 1H-benzimidazole-6-carboxamide | 2.38 g | N1C=NC2=C1C=C(C=C2)C(=O)N | C8H7N3O
reactant | NaOH | 1M, pH 6 to 7 | [OH-].[Na+]
solvent | DMF | 47.6 ml | CN(C)C=O | C3H7NO
solvent | DMF | 30 ml | CN(C)C=O | C3H7NO
product | 1H-benzimidazole-6-carbonitrile | 0.58 g | N1C=NC2=C1C=C(C=C2)C#N | C8H5N3
